US04020083
To a flask containing 46 gms. of 5-chloro-8,9-dimethoxy-1,2,4,triazolo[4,3-c]quinazoline is added 1000 ml. of a 10% KOH solution and the resulting mixture heated to reflux. A gentle reflux is maintained overnight after which time the mixture is neutralized to pH 7.0 with cooling and stirring by adding dropwise a 1:1 HCl solution and the resulting precipitate filtered off. The aqueous layer is washed 3 or 4 times with ethyl acetate, dried and evaporated in vacuo to dryness. The residue is recrystallized from ethanol to obtain 5-(2-amino-4,5-dimethoxyphenyl)-s-triazole, m.p. 205°-210° C.

reactant | 5-chloro-8,9-dimethoxy-1,2,4,triazolo[4,3-c]quinazoline | ClC1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C11H9ClN4O2
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
product | 5-(2-amino-4,5-dimethoxyphenyl)-s-triazole | NC1=C(C=C(C(=C1)OC)OC)C1=NC=NN1 | C10H12N4O2
